US04616091
Preparation of [[8-Acetyl-7-[5-(4-acetyl-3-hydroxy-2-propylphenoxy)-pentyloxy]-2-naphthalenyl]oxy]acetic acid methyl ester.
A mixture of 1.66 g of [[8-Acetyl-7-(5-bromopentyloxy)-2-naphthalenyl]oxy]acetic acid methyl ester, 0.76 g of 1-[2,4-dihydroxy-3-propylphenoxy]ethanone and 0.81 g of anhydrous potassium carbonate in 30 ml of anhydrous acetone and 10 ml of anhydrous dimethylformamide was stirred at reflux. An additional 0.8 g of anhydrous potassium carbonate was added after 15 hours. Reflux was continued for a total of 22 hours. The reaction mixture was filtered and the filtrate was concentrated in vacuo to an oil which was treated with ether and water. The organic phase was separated and washed with 1N sodium hydroxide, water and sodium chloride solution. The black oil from concentration of the organic phase was purified by flash column chromatography to yield 1.45 g. mp 87°-89° (69%) of [[8-Acetyl-7 -[5-(4-acetyl-3-hydroxy-2-propylphenoxy)-pentyloxy]-2-napththalenyl]oxy]acetic acid methyl ester.

reactant | [[8-Acetyl-7-(5-bromopentyloxy)-2-naphthalenyl]oxy]acetic acid methyl ester | 1.66 g | COC(COC1=CC2=C(C(=CC=C2C=C1)OCCCCCBr)C(C)=O)=O | C20H23BrO5
reactant | 1-[2,4-dihydroxy-3-propylphenoxy]ethanone | 0.76 g | OC1=C(OC(C)=O)C=CC(=C1CCC)O | C11H14O4
reactant | potassium carbonate | 0.81 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 0.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 30 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | [[8-Acetyl-7-[5-(4-acetyl-3-hydroxy-2-propylphenoxy)-pentyloxy]-2-naphthalenyl]oxy]acetic acid methyl ester | COC(COC1=CC2=C(C(=CC=C2C=C1)OCCCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)C(C)=O)=O | C31H36O8
